US07176242B2
To a mixture of 3-iodo-5-(methoxycarbonyl)benzoic acid (65.8 g, 0.215 mol), triethylamine (52.2 g, 0.516 mol), and dipropylamine (23.9 g, 0.237 mol) in methylene chloride (950 mL) was added 2-chloro-1-methylpyridinium iodide (65.9 g, 0.258 mol). The reaction mixture was stirred at room temperature for 15 h and then concentrated under reduced pressure. Purification by silica gel plug (3:1 hexanes/ethyl acetate) provided methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate (66.8 g): 1NMR (300 MHz, CDCl3) δ 8.39 (s, 1H), 7.98 (s, 1H), 7.88 (s, 1H), 3.93 (s, 3H), 3.45 (m, 2H), 3.14 (m, 2H), 1.69 (m, 2H), 1.54 (m, 2H), 0.98 (m, 3H), 0.77 (m, 3H).

reactant | 3-iodo-5-(methoxycarbonyl)benzoic acid | 0.215 mol, 65.8 g | IC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7IO4
reactant | triethylamine | 0.516 mol, 52.2 g | C(C)N(CC)CC | C6H15N
reactant | dipropylamine | 0.237 mol, 23.9 g | C(CC)NCCC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.258 mol, 65.9 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | methylene chloride | 950 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate | 66.8 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)I)CCC | C15H20INO3
